* source STAB_V1
R_Rs         VO 0  {Rload}  
R_R         N21878 VI  100k  
R_P         D N592000 {50k*0.25+.001}
R_R5         N50405 N53086  68  
R_R1         VO D  130k  
V_V1         VI 0 10V
D_D1         0 N41071 D1N4733 
R_R2         0 N592000  160k  
Q_Q1         VO N53086 VI QBD136/PLP 
R_Rz         N41071 VO  150  
Q_Q3         N21878 D N41071 BC546A 
Q_Q2         N50405 N21878 N41071 BC546A 
.PARAM  Rload=32
