* source STAB_V1
X_Q5         VI N59015 N67188 BCV47
R_R1         VO D  130k  
Q_Q1         VO N53086 N19462 QBD136/PLP 
Q_Q4         N59015 N19462 VI BC558A 
R_R2         0 N363190  160k  
R_R         N21831 VI  100K  
Q_Q2         N50405 N21831 N41071 BC546A 
V_V1         VI 0 10V
R_R7         N67188 D  100  
D_D1         0 N41071 D1N4733 
R_R6/1W         VI N19462  560mOhm  
Q_Q3         N21831 D N41071 BC546A 
R_P         D N363190 {50k*0.25+.001}
R_R5         N50405 N53086  68  
R_Rz         N41071 VO  150  
R_Rs         VO 0  {Rload}  
.PARAM  Rload=32
