* source STAB_V1
Q_Q2         N50405 N21878 N41071 BC546A 
Q_Q1         VO N53086 VI QBD136/PLP 
C_C2         VI 0  470u  
R_R2         0 N632140  160k  
D_D2         N68957 VI D1N3940 
R_P         D N632140 {50k*0.25+.001}
R_R1         VO D  130k  
C_C1         VO 0  47u  
R_R         N21878 VI  100k  
V_V1         N68957 0  
+SIN 0 15 50 0 0 0
Q_Q3         N21878 D N41071 BC546A 
R_Rz         N41071 VO  150  
D_D1         0 N41071 D1N4733 
R_Rs         VO 0  {Rload}  
R_R5         N50405 N53086  68  
.PARAM  Rload=200
